US07700641B2
Synthesis of 4′-pyrimidin-5-ylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4, and making non-critical variations using 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and pyrimidin-5-ylboronic acid to replace [6-(dimethylamino)pyridin-3-yl]boronic acid, the title compound was obtained (32%) as a colorless solid: mp 185-187° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.85 (s, 1H), 9.02 (s, 1H), 8.19 (s, 2H), 7.33 (t, 1H), 7.00 (d, 1H), 6.83 (d, 1H), 6.37 (s, 1H), 6.19 (s, 1H), 5.89 (d, 2H); 13C NMR (75 MHz, DMSO-d6) δ 178.7, 157.5, 156.0, 155.6, 148.8, 142.3, 133.1, 132.6, 131.8, 129.5, 124.5, 120.3, 110.9, 103.2, 101.9, 93.3, 79.5, 66.8, 58.5; MS (ES+) m/z 360.4 (M+1).

reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | pyrimidin-5-ylboronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | [6-(dimethylamino)pyridin-3-yl]boronic acid | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
product | 4′-pyrimidin-5-ylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1=CN=CC(=C1)C1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C20H13N3O4
